US08957205B2
N-[[1-[[[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninol
100 mg (0.74 mmol) of L-methioninol was added to a solution of 250 mg (0.68 mmol) of 2-[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one in 20 ml of dimethylformamide. After the mixture was stirred at 80° C. for 15 hours, the reaction solution was concentrated under reduced pressure, ethyl acetate was added thereto, and the mixture was successively washed with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, diisopropyl ether was added to the residue. The crystal was washed to obtain 319 mg (86%) of the title compound.

reactant | L-methioninol | 0.74 mmol, 100 mg | N[C@@H](CCSC)CO | C5H13NOS
reactant | 2-[4-[2-(4-methyl-1-piperazinyl)-4-thiazolyl]phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 0.68 mmol, 250 mg | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C22H26N4O2S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[[1-[[[4-[2-(4-Methyl-1-piperazinyl)-4-thiazolyl]phenyl]carbonyl]amino]cyclohexyl]carbonyl]-L-methioninol | 319 mg, 86% | CN1CCN(CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](CCSC)CO | C27H39N5O3S2
